US07547699B2
(4R,9aR)-6-[(tert-Butoxycarbonyl-cyclopropyl-amino)-methyl]-7-formyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
To a solution of 0.847 g (4R,9aR)-7-bromo-6-[(tert-butoxycarbonyl-cyclopropyl-amino)-methyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 30 ml toluene was added at −78° C. 1.5 ml of a 1.5M solution of tert-butyllithium and the mixture was stirred at this temperature for 10 min. To the resulting mixture was added 2.00 ml dimethylformamide and the mixture was stirred at −78° C. for 1 h and at 0° C. for 30 min. The reaction was quenched by addition of 10% aqueous citric acid. The phases were separated and the organic phase was purified by chromatography on silica gel with heptane:ethyl acetate=1:1 to yield 0.200 g of the title compound as orange yellow solid. (MS: 487.3 (M+H+)).

reactant | (4R,9aR)-7-bromo-6-[(tert-butoxycarbonyl-cyclopropyl-amino)-methyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.847 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)CN(C1CC1)C(=O)OC(C)(C)C)Br | C25H37BrN4O4
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | dimethylformamide | 2.00 ml | CN(C=O)C | C3H7NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (4R,9aR)-6-[(tert-Butoxycarbonyl-cyclopropyl-amino)-methyl]-7-formyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.200 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)CN(C1CC1)C(=O)OC(C)(C)C)C=O | C26H38N4O5
